US06720344B2
A solution of 2-amino-1,3-benzthiazole (700 mg, 4.7 mmol) in methylene chloride (20 ml) and pyridine (800 μl) was treated with 2,4-dimethoxybenzoyl chloride and stirred at 25° C. for 30 minutes. After this time, the reaction was treated with HCl (10 ml of 5 wt %) and the resulting precipitated collected by filtration. The solid was recrystallized from methanol to give 2-(2,4-dimethoxylbenzamido)-1,3-benzthiazole as colorless needles. (1.185 mg, 80% yield)

reactant | 2-amino-1,3-benzthiazole | 4.7 mmol, 700 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2,4-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | HCl | 10 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 800 μl | N1=CC=CC=C1 | C5H5N
product | 2-(2,4-dimethoxylbenzamido)-1,3-benzthiazole | 80% yield | O(C)C1=C(C(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)OC | C16H14N2O3S
